US04566900
Using a procedure similar to that described in Example D, 33 g of 3-nitroacetophenone and 26.2 g of cinnamaldehyde in 200 ml of ethanol were condensed in the presence of 10 ml of a 5% strength NaOH solution to give 38 g (71% of theory) of 1-(3-nitrophenyl)-5-phenyl-2,4-pentadien-1-one of melting point 127°-129° C.

reactant | 3-nitroacetophenone | 33 g | CC(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C8H7NO3
reactant | cinnamaldehyde | 26.2 g | C(C=CC1=CC=CC=C1)=O | C9H8O
reactant | NaOH | [OH-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 1-(3-nitrophenyl)-5-phenyl-2,4-pentadien-1-one | 38 g, 71% | [N+](=O)([O-])C=1C=C(C=CC1)C(C=CC=CC1=CC=CC=C1)=O | C17H13NO3
